US08003658B2
Preparation of (1S)—N-(1-{4-[3-chloro-4-(pyridin-2-ylmethoxy)-phenylamino]-7-(3-morpholin-4-yl-propoxy)-quinazolin-6-ylcarbamoyl}-ethyl)-acrylamide
500 mg of (2S)-2-amino-N-{4-[3-chloro-4-(pyridin-2-ylmethoxy)-phenylamino]-7-(3-morpholin-4-ylpropoxy)-quinazolin-6-yl}-propionamide as a starting material was dissolved in 12 ml of THF and 4 ml of water, and reacted with 0.08 ml of acryloylchloride at room temperature for 1.5 hours after adding 213 mg of sodium bicarbonate. The reacted solution was extracted with a mixture of chloroform and isopropanol after adding water, washed with water and saturated saline solution, dried over anhydrous sodium sulfate, filtered and distilled under a reduced pressure, and the resulting residue was subjected to column chromatography (eluent-ethylacetate:methanol=15:1) to obtain the title compound (180 mg, 33%).

reactant | (2S)-2-amino-N-{4-[3-chloro-4-(pyridin-2-ylmethoxy)-phenylamino]-7-(3-morpholin-4-ylpropoxy)-quinazolin-6-yl}-propionamide | 500 mg | N[C@H](C(=O)NC=1C=C2C(=NC=NC2=CC1OCCCN1CCOCC1)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)Cl)C | C30H34ClN7O4
reactant | acryloylchloride | 0.08 ml | C(C=C)(=O)Cl | C3H3ClO
reactant | sodium bicarbonate | 213 mg | C([O-])(O)=O.[Na+]
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | water | 4 ml | O | H2O
product | (1S)—N-(1-{4-[3-chloro-4-(pyridin-2-ylmethoxy)-phenylamino]-7-(3-morpholin-4-yl-propoxy)-quinazolin-6-ylcarbamoyl}-ethyl)-acrylamide | 180 mg, 33% | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC(=C(C=C12)NC(=O)[C@H](C)NC(C=C)=O)OCCCN1CCOCC1 | C33H36ClN7O5
